US05223498
Reaction of 4-methoxy-2-morpholinophenyl isothiocyanate (4.1 g) with a saturated solution of ammonia in ethanol (30 ml) for 24 hours at room temperature gave 1-(4-methoxy-2-morpholinophenyl thiourea (m.p. 175° C.).

reactant | 4-methoxy-2-morpholinophenyl isothiocyanate | 4.1 g | COC1=CC(=C(C=C1)N=C=S)N1CCOCC1 | C12H14N2O2S
reactant | ammonia | N | H3N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-methoxy-2-morpholinophenyl thiourea | COC1=CC(=C(C=C1)NC(=S)N)N1CCOCC1 | C12H17N3O2S
